US07790751B2
4-[3-(1-Naphthylsulfonyl)-1H-indazol-5-yloxymethyl]piperidine-1-carboxylic Acid Benzyl Ester
A mixture of 4-[4-amino-3-(1-naphthylsulfonylmethyl)phenoxymethyl]-piperidine-1-carboxylic acid benzyl ester (0.74 g, 1.36 mmoles) in THF and 4M HCl (10 mL), under nitrogen, at 3° C. was treated dropwise with a solution of sodium nitrite (0.09 g, 1.42 mmoles) in H2O, poured into a cold solution of saturated sodium bicarbonate and extracted with EtOAc. The extracts were combined, dried over Na2SO4 and concentrated under vacuum to afford the title compound as an off white solid (0.71 g, 1.29 mmoles).

reactant | 4-[4-amino-3-(1-naphthylsulfonylmethyl)phenoxymethyl]-piperidine-1-carboxylic acid benzyl ester | 1.36 mmoles, 0.74 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)N)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C31H32N2O5S
reactant | sodium nitrite | 1.42 mmoles, 0.09 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | HCl | 4M, 10 mL | Cl | ClH
solvent | H2O | O | H2O
product | 4-[3-(1-Naphthylsulfonyl)-1H-indazol-5-yloxymethyl]piperidine-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C31H29N3O5S
